US08207344B2
4: 4-(3-Fluoro-4-hydroxy-phenyl)-1-methanesulfonyl-piperidin-4-ol
4-(3-Fluoro-4-methoxy-phenyl)-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine (1.12 g, 3.93 mmol) is dissolved in dry dichloromethane (20 mL) under nitrogen. The solution is cooled to −78° C. and boron tribromide (11.52 g, 7.85 mL, 7.85 mmol) is added by syringe. The reaction is warmed to room temperature and stirred for 1 h followed by the addition of 5% aqueous sodium bicarbonate and dichloromethane. An insoluble solid is formed and filtered to provide 729 mg of the title compound as a pink solid. 1H NMR (CDCl3) δ (ppm): 7.21 (dd, 1H), 7.09 (m, 1H), 6.89 (t, 1H), 3.30 (m, 2H), 3.18 (td, 2H), 2.88 (m, 3H), 2.06 (m, 2H), 1.80 (m, 2H).

reactant | 4-(3-Fluoro-4-methoxy-phenyl)-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine | 3.93 mmol, 1.12 g | FC=1C=C(C=CC1OC)C=1CCN(CC1)S(=O)(=O)C | C13H16FNO3S
reactant | boron tribromide | 7.85 mmol, 7.85 mL, 11.52 g | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(3-Fluoro-4-hydroxy-phenyl)-1-methanesulfonyl-piperidin-4-ol | 729 mg | FC=1C=C(C=CC1O)C1(CCN(CC1)S(=O)(=O)C)O | C12H16FNO4S
